US06544985B2
7-Dimethylamino-4-[3-(3-hydroxymethyl-isoxazol-5-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[5-dimethylamino-2-(3-oxo-3-{3-[3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester (Example M41) (680 mg, 1.05 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (294 mg).

reactant | (RS)-[5-dimethylamino-2-(3-oxo-3-{3-[3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | 1.05 mmol, 680 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NO1)COC1OCCCC1)=O)=O)=O | C32H37F3N4O7
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-4-[3-(3-hydroxymethyl-isoxazol-5-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NO2)CO)=O)C=C1C(F)(F)F)C | C22H19F3N4O3
